US07153848B2
(±)-13-Cyclohexyl-6,7-dihydro-6-hydroxymethyl-5H-indolo[2,1-a][2]benzazepine-10-carboxylic acid
Sodium hydroxide (0.2 mL of 1 N, 0.2 mmol) was added to a solution of methyl (±)-13-cyclohexyl-6,7-dihydro-6-hydroxymethyl-5H-indolo[2,1-a][2]benzazepine-10-carboxylate (15.0 mg, 0.037 mmol) in methanol (0.5 mL) and tetrahydrofuran (0.5 mL) in a microwave vial. The vial was sealed and the contents heated at 100° C. for 10 min in a microwave apparatus. The solution was acidified with dilute hydrochloric acid to precipitate the crude acid. The solid was collected and purified on the Shimadzu preparative liquid chromatograph. The product containing fraction was concentrated on a Speed Vac® to leave the titled compound as a white solid (10.0 mg, 69%). ESI-MS m/z 390 (MH+); 1H NMR (500 MHz, MeOD) δ 1.19–1.34 (m, 1 H) 1.36–1.56 (m, 2 H) 1.63 (m, 1 H) 1.74–1.87 (m, 2 H) 1.91–2.21 (m, 5 H) 2.37–2.60 (m, 1 H) 2.74 (m, 1 H) 2.97 (m, 1 H) 3.36 (m, 1 H) 3.47–3.67 (m, 2 H) 4.59 (m, 1 H) 7.38–7.50 (m, 4 H) 7.72 (m, 1 H) 7.88 (m, 1 H) 8.18 (m, 1 H).

reactant | Sodium hydroxide | 0.2 mmol, 1 N, 0.2 mL | [OH-].[Na+]
reactant | methyl (±)-13-cyclohexyl-6,7-dihydro-6-hydroxymethyl-5H-indolo[2,1-a][2]benzazepine-10-carboxylate | 0.037 mmol, 15.0 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CC(C2)CO)C=CC=C1)C(=O)OC | C26H29NO3
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 0.5 mL | CO | CH4O
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
product | (±)-13-Cyclohexyl-6,7-dihydro-6-hydroxymethyl-5H-indolo[2,1-a][2]benzazepine-10-carboxylic acid | 10.0 mg, 69% | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CC(C2)CO)C=CC=C1)C(=O)O | C25H27NO3
